US04687766
4-hydroxy-2-methyl-N-(2-thiazolyl)-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide (sudoxicam).
The oxicams may be combined with the special 1,2-diacyl-glycero-3-phosphocholines in a molar ratio of 1:1 to 1:20, preferably in a molar ratio of 1:1 to 1:10. A unit dose for the therapeutic application to humans amounts to 5-300 mg oxicam combined with 10-500 mg 1,2-diacyl-glycerol-3-phosphocholine per day, preferably 10-20 mg for piroxicam and 100-300 mg for isoxicam combined with 50-250 mg 1,1-diacyl-glycero-3-phosphocholine.

reactant | piroxicam | CN1C(=C(C=2C=CC=CC2S1(=O)=O)O)C(=O)NC=3C=CC=CN3 | C15H13N3O4S
reactant | isoxicam | CC1=CC(=NO1)NC(=O)C2=C(C=3C=CC=CC3S(=O)(=O)N2C)O | C14H13N3O5S
product | 4-hydroxy-2-methyl-N-(2-thiazolyl)-2H-1,2-benzothiazine-3-carboxamide-1,1-dioxide | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)NC=2SC=CN2 | C13H11N3O4S2
